US06525042B1
4-[(6-Chloronaphthalen-2-yl)sulfonamido]-1-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperidine hydrochloride
In a similar manner to Example 4 except for the use of 5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid and 4-[(6-chloronaphthalen-2-yl)sulfonamido]piperidine trifluoroacetate as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)O | C13H17NO4S
reactant | 4-[(6-chloronaphthalen-2-yl)sulfonamido]piperidine trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)NC1CCNCC1
product | 4-[(6-Chloronaphthalen-2-yl)sulfonamido]-1-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperidine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)NC1CCN(CC1)C(=O)C1=CC=2CNCCC2S1 | InChI=1S/C23H24ClN3O3S2.ClH/c24-18-3-1-16-12-20(4-2-15(16)11-18)32(29,30)26-19-6-9-27(10-7-19)23(28)22-13-17-14-25-8-5-21(17)31-22;/h1-4,11-13,19,25-26H,5-10,14H2;1H
